US05760032
4-(2-Chlorophenyl)-2-ethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepine (10.0 g) and N-chlorosuccinimide (4.55 g) were dissolved in dimethylformamide (50 ml), and the mixture was stirred at room temperature overnight. Ethyl acetate and water were added thereto. The organic layer was washed with water and dried over magnesium sulfate. The solvent was concentrated under reduced pressure, and the obtained residue was purified by silica gel column chromatography to give 1.8 g of 9-chloro-4-(2-chlorophenyl)-2-ethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepine.

reactant | 4-(2-Chlorophenyl)-2-ethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepine | 10.0 g | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)CC)C=NN2 | C16H13ClN4S
reactant | N-chlorosuccinimide | 4.55 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 9-chloro-4-(2-chlorophenyl)-2-ethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepine | 1.8 g | ClC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=C(S1)CC | C16H12Cl2N4S
